US08357689B2
{[(3,5-dichloro-phenylsulphonyl)-(1-pyrimidin-2-yl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonic acid
70 mg diethyl {[(3,5-dichloro-phenylsulphonyl)-(1-pyrimidin-2-yl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate are dissolved in 3 ml dichloromethane. Under argon 200 μl trimethylsilylbromide are added thereto and the mixture is refluxed for 2 hours. After cooling to ambient temperature 1 ml of methanol is added and the mixture is stirred for a further 1 hour. Then the solvents are eliminated in vacuo. The residue is taken up in 3 ml of methanol, stirred for 10 minutes and the solvent is eliminated in vacuo. The residue thus obtained is extracted from dichloromethane with 1% methanol. The solid is suction filtered and dried.

reactant | diethyl {[(3,5-dichloro-phenylsulphonyl)-(1-pyrimidin-2-yl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate | 70 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C1=NC=CC=N1)CP(OCC)(OCC)=O | C23H25Cl2N4O5PS
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | {[(3,5-dichloro-phenylsulphonyl)-(1-pyrimidin-2-yl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C1=NC=CC=N1)CP(O)(O)=O | C19H17Cl2N4O5PS
